US04337197
(C) (S)-1-Hydroxy-3-[(phenylacetyl)amino]-2-azetidinone
To an ethanolic (100 ml) solution of (S)-3-[(phenylacetyl)amino]-1-[(phenylmethyl)oxy]-2-azetidinone (0.8 g, contaminated with triphenylphosphine) is added 10% palladium on charcoal catalyst (0.4 g) and the mixture is hydrogenated under ca. 1 atom pressure for one hour. The reaction mixture is filtered through prewashed Celite and concentrated under reduced pressure to an oily residue. The product is partitioned between 50% sodium bicarbonate solution and ethyl acetate. The aqueous layer is acidified with potassium bisulfate and extracted with ethyl acetate (three 50 ml portions). The combined extracts are dried over sodium sulfate and concentrated to a crystalline solid (ca. 200 mg). Recrystallization from methanol/chloroform affords an analytical sample, melting point 145°-146° C. dec.

reactant | (S)-3-[(phenylacetyl)amino]-1-[(phenylmethyl)oxy]-2-azetidinone | 0.8 g | C1(=CC=CC=C1)CC(=O)N[C@@H]1C(N(C1)OCC1=CC=CC=C1)=O | C18H18N2O3
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
product | (S)-1-Hydroxy-3-[(phenylacetyl)amino]-2-azetidinone | ON1C([C@H](C1)NC(CC1=CC=CC=C1)=O)=O | C11H12N2O3
